US04812573
A mixture of 7-(3-chlorophenylsulphamoyl)-1,2,3,4-tetrahydroisoquinoline hydrochloride (3.25 g, 9 mmol) (EP No. 0038177-A) and ethyl acrylate (0.91 g, 9 mmol) in THF (8 ml) was heated under reflux for 18 hr. Concentration and chromatography (silica gel, ether) gave ethyl-3-[7-(3-chlorophenylsulphamoyl)-1,2,3,4-tetrahydroisoquinolin-2-yl]propionate as a viscous oil (4.09 g, 98.7%).

reactant | 7-(3-chlorophenylsulphamoyl)-1,2,3,4-tetrahydroisoquinoline hydrochloride | 9 mmol, 3.25 g | Cl.ClC=1C=C(C=CC1)NS(=O)(=O)C1=CC=C2CCNCC2=C1
reactant | ethyl acrylate | 9 mmol, 0.91 g | C(C=C)(=O)OCC | C5H8O2
solvent | THF | 8 ml | C1CCOC1 | C4H8O
product | ethyl-3-[7-(3-chlorophenylsulphamoyl)-1,2,3,4-tetrahydroisoquinolin-2-yl]propionate | 4.09 g, 98.7% | C(C)OC(CCN1CC2=CC(=CC=C2CC1)S(NC1=CC(=CC=C1)Cl)(=O)=O)=O | C20H23ClN2O4S
